US08252755B2
Preparation of (9H-fluoren-9-yl)methyl 2-((bis(4-methoxyphenyl)(phenyl)-methoxy)methyl)-4-hydroxypyrrolidine-1-carboxylate (XI)
(9H-Fluoren-9-yl)methyl 4-hydroxy-2-(hydroxymethyl)pyrrolidine-1-carboxylate (10.6 g, 31.2 mmoles) is coevaporated twice with anhydrous pyridine (50 mL each) and then dissolved in anhydrous pyridine (200 mL). The stirred solution is chilled in an ice bath, and 4,4′-dimethoxytritylchloride (11.0 g, 32.5 mmoles) is added in three approximately equal portions at thirty minute intervals. When the addition is complete, the flask is stoppered and place at 4° C. for 16 hours. The mixture is then evaporated to a thick yellow syrup, which is dissolved in toluene (100 mL), filtered and evaporated. The residue is dissolved in methylene chloride (350 mL) and washed successively with cold aqueous citric acid (10% [w/v], 150 mL), saturated aqueous sodium bicarbonate (150 mL) and saturated aqueous sodium chloride (150 mL). The methylene chloride solution is dried over anhydrous sodium sulfate, filtered and evaporated to a yellow foam. The crude product is purified on silica gel (500 mL bed volume) eluting with ethyl acetate:hexanes:triethylamine (50:50:1 [v/v/v], 1300 mL; then 67:33:1 [v/v/v], 1800 mL), then ethyl acetate:triethylamine (99:1 [v/v], 1000 mL). Fractions containing pure product by thin layer chromatography are pooled and evaporated to an off-white amorphous solid which is dried well in vacuo. The yield is 17.7 g (88%).

reactant | (9H-Fluoren-9-yl)methyl 4-hydroxy-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 31.2 mmoles, 10.6 g | OC1CC(N(C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CO | C20H21NO4
reactant | 4,4′-dimethoxytritylchloride | 32.5 mmoles, 11.0 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | (9H-fluoren-9-yl)methyl 2-((bis(4-methoxyphenyl)(phenyl)-methoxy)methyl)-4-hydroxypyrrolidine-1-carboxylate | COC1=CC=C(C=C1)C(OCC1N(CC(C1)O)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C41H39NO6
